US04906633
A mixture of 2.44 g (10.0 mmol) of 3,5-diamino-6-chloro-N-(2-methylaminoethyl)pyrazine-2-carboxamide, 1.67 g (10.0 mmol) of methyl 3-bromopropionate and 1.38 g (10.0 mmol) of potassium carbonate was stirred in 20 ml of DMF for 18 hours at ambient temperature. Water (100 ml) was added and the solid was filtered and air dried. Crystallization from ethanol provided 2.1 g (6.34 mmol, 63%) of N-[2-[[(3,5-diamino-6-chloropyrazinyl)carbonyl]amino]ethyl]-N-methyl-beta-alanine methyl ester as white crystals; mp 136.5°-137° C.

reactant | 3,5-diamino-6-chloro-N-(2-methylaminoethyl)pyrazine-2-carboxamide | 10.0 mmol, 2.44 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)NCCNC | C8H13ClN6O
reactant | methyl 3-bromopropionate | 10.0 mmol, 1.67 g | BrCCC(=O)OC | C4H7BrO2
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-[2-[[(3,5-diamino-6-chloropyrazinyl)carbonyl]amino]ethyl]-N-methyl-beta-alanine methyl ester | 6.34 mmol, 2.1 g, 63% | COC(CCN(C)CCNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C12H19ClN6O3
